US06319920B1
To a solution of methane sulfonamide (0.18 grams, 1.84 mmole) in dimethylformamide (2 ml) was added 60% sodium hydride (0.048 grams, 1.2 mmole) in mineral oil. The reaction mixture was heated at 120° C. for 30 minutes, and cooled to 100° C. A solution of (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-ethenesulfonylpiperidin-4-ylmethyl)amine (0.36 grams, 0.92 mmol) in dimethylformamide was added all at once. The reaction mixture was heated at 100° C. for 40 minutes. The solvent was evaporated under reduced pressure and the residue was partitioned between dichloromethane and water. The organic layer was dried over potassium carbonate and evaporated to leave a residue, which was purified by flash chromatography using ethyl acetate. Appropriate fractions were combined and evaporated to give (S)-N-{2-[4-({[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]ethylamino}methyl)piperidine-1-sulfonyl]ethyl}-methanesulfonamide as an oil (0.32 grams, 71%). M+H 488. Analysis % of the hydrochloride salt: Found: C, 48.26; H, 7.09; N, 8.10. Requires: C, 48.59; H, 7.42; N, 7.73.

reactant | methane sulfonamide | 1.84 mmole, 0.18 grams | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 1.2 mmole, 0.048 grams | [H-].[Na+]
reactant | (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-ethenesulfonylpiperidin-4-ylmethyl)amine | 0.92 mmol, 0.36 grams | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)CC2CCN(CC2)S(=O)(=O)C=C | C21H32N2O3S
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (S)-N-{2-[4-({[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]ethylamino}methyl)piperidine-1-sulfonyl]ethyl}-methanesulfonamide | 0.32 grams, 71% | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)CC2CCN(CC2)S(=O)(=O)CCNS(=O)(=O)C | C22H37N3O5S2
